USH0000830
Example 2-2 (synthesis of N-methyl-N-octadecyl-5-nitro-2-chlorobenzenesulfonamide)
44 g of 5-nitro-2-chlorobenzenesulfonylchloride and 100 ml of dichloromethane were mixed. A dichloromethane solution of 48.4 g of methyloctadecylamine and 36.1 ml of triethylamine was added dropwise to the mixture. After the reaction was completed, the reaction solvent was removed under reduced pressure. 300 ml of methanol was added to the reaction system so that dissolution was effected. The solution was then gradually allowed to cool. As a result, crystals precipitated. The crystals were filtered, and then dried.

reactant | 5-nitro-2-chlorobenzenesulfonylchloride | 44 g | [N+](=O)([O-])C=1C=CC(=C(C1)S(=O)(=O)Cl)Cl | C6H3Cl2NO4S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | methyloctadecylamine | 48.4 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
solvent | triethylamine | 36.1 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-octadecyl-5-nitro-2-chlorobenzenesulfonamide | CN(S(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)CCCCCCCCCCCCCCCCCC | C25H43ClN2O4S
